US05942544
Part A. Pyridine (0.66 mL, 8.21 mmol) was added slowly to an ice cooled solution of 4-nitrophenyl butanol (1.0 gm,5.13 mmol) and dibromotriphenylphosphorane (2.8 gm, 6.66 mmol) in 20 mL acetonitrile under a nitrogen atmosphere. The reaction solution was stirred for 1/2 hr and allowed to warm to ambient temperature and stir overnight. The reaction was concentrated invacuo to give a residue. The residue was filtered through a short plug of silica gel and then the product was purifed by flash chromatography on silica gel eluting methylene chloride:hexane (v:v, 50:50), to give 1-bromo-4-(4-nitrophenyl)butane as an oil 1.3 gm (98%) MS 275(M+NH4)+ 1 H NMR (CDCl3): 8.2(d, 2H), 7.4(d, 2H), 3.4(t, 2H), 2.8(t, 2H), 1.8-2.0(m, 4H).

reactant | Pyridine | 8.21 mmol, 0.66 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenyl butanol | 5.13 mmol, 1.0 gm | [N+](=O)([O-])C1=CC=C(C=C1)C(CCC)O | C10H13NO3
reactant | dibromotriphenylphosphorane | 6.66 mmol, 2.8 gm | BrP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C18H15Br2P
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 1-bromo-4-(4-nitrophenyl)butane | 1.3 gm, 98% | BrCCCCC1=CC=C(C=C1)[N+](=O)[O-] | C10H12BrNO2
